US05618818
2-Amino-1,4,5,6-tetrahydropyrimidine-5-carboxylic acid (0.1 g, 0.5 mmol) and thionyl chloride (0.2 mL, 1.4 mmol) were refluxed in methanol for 24 h, and then evaporated to dryness in vacuo to give 2-amino-5-methyloxycarbonyl-1,4,5,6-tetrahydropyrimidine hydrochloride. 2-Amino-5-methyloxycarbonyl-1,4,5,6-tetrahydropyrimidine hydrochloride (0.1 g, 0.6 mmol) and N,N-dimethylhydrazine 98% (0.4 mL, 5.3 mmol) were refluxed in anhydrous methanol (20 mL) for 2 h, then evaporated to dryness in vacuo to give a white residue. Recrystallization of the residue from absolute ethanol and diethyl ether gave crystals (40 mg, 58%) of 2-amino-1,4,5,6-tetrahydropyrimidine-5-carboxylic-(N,N-dimethyl)hydrazide as the hydrochloride salt: mp 192°-193° C.; 1H NMR (D2O): δ2.8 (s, 1H), 3.0 (m, 1H), 3.50 (d, 4H), 3.65 (s, 6H); MS m/z 156 (M+ of free base). Anal. (C7H16N5OCl) C, H, N.

reactant | 2-Amino-1,4,5,6-tetrahydropyrimidine-5-carboxylic acid | 0.5 mmol, 0.1 g | NC=1NCC(CN1)C(=O)O | C5H9N3O2
reactant | thionyl chloride | 1.4 mmol, 0.2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | 2-amino-5-methyloxycarbonyl-1,4,5,6-tetrahydropyrimidine hydrochloride | Cl.NC=1NCC(CN1)C(=O)OC | InChI=1S/C6H11N3O2.ClH/c1-11-5(10)4-2-8-6(7)9-3-4;/h4H,2-3H2,1H3,(H3,7,8,9);1H
